.SUBCKT  MAX477     201  1  99  50 40
ISUPP 99 0 5.5MA
ISUPPN 50 0 -5.5MA
*** INPUT STAGE
I101 99  205 430U
I202  204 50 430U
Q201  50  203 205 QPN
Q202  99  203 204 QNN 
R201   205 206 633
*C201   206 99 .3p
*was .63
R202  204  207 633
*C202   207 50 .3P
*was .63
R203 99  208 633
V201  99 210 .3
RE201 210 230 130
D201  230  208 DX
R204 50  209 633
V202  211 50 .3
RE202 211 231 150
D202  209 231 DX
Q203   208  206 202 QNI
Q204   209  207 202 QPI
R206  201 99 20meg
R207  201 50 20meg
IB201 201 99 2UA
IB202 99  202 2UA
VOS200 203 201 0V
*CIN201 201  0 1.5P
*CIN202 202  0 1.5P
*
RGM 2 220 380
VGM 202 220 0V
*** VGM SENSES THE CURRENT THROUGH VGM
*** INPUT STAGE
I1 99  5 430U
I2  4 50 430U
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
R1   5 6 633
*C1   6 99 .3P
*was .63
R2  4  7 633
*C2   7 50 .3P
*was .63
R3 99  8 633
V1  99 10 .3
RE1 10 30 130
D1  30  8 DX
R4 50  9 633
V2  11 50 .3
RE2 11 31 150
D2   9 31 DX
Q3   8  6 2 QNI
Q4   9  7 2 QPI
R6  1 99 20meg
R7  1 50 20meg
IB1 1 99 2UA
IB2 99  2 2UA
VOS 3 1 0V
**************SECOND STAGE**************
*
********************Isup  99 50 4.47M
R8  99 49 1meg
R9  49 50 1meg
V3  99 16 1.755
*pos swig
D3  15 16 DX
D4  17 15 DX
V4  17 50 1.755
*neg swing
EH  99 98 99 49 1
*G1  98 15 POLY(2) 99 2 50 202 0 1.58E-3 1.58E-3
F1 98 15 VGM .35
R5  98 15 2.372MEG
*** ***********************  1st pole here with r5, and c3
C3 98 15 .376P 
*was .29p
***************POLE STAGE*************** 
*
*Fp=250MHz
G2  98 20 15 49 1E-3
R14 98 20 1K
*C4  98 20 .692P
*C4 98 20 .5P
*
***************POLE STAGE*************** 
*
*Fp=500 MHz
G3  98 21 20 49 1E-3
R15 98 21 1K
*C5  98 21 .03P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G4  98 22 21 49 1E-3
R16 98 22 1K
*C6  98 22 .346P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G5  98 23 22 49 1E-3
R17 98 23 1K
*C7  98 23 .246P
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 35 VA8 1
D7  36 35 DX
VA7 99 36 0
D8  35 99 DX
E1  99 37 99 23 1
VA8 37 38 0
R35 38 40 10
L35 38 40 300U
*r35 was 12
V5  33 40 .8V
D5  23 33 DX
V6  40 34 .8V
D6  34 23 DX
*CF1 40  2 5P
*** was 2.1pf
*
***************MODELS USED**************
*
.MODEL QNI NPN(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
*
.ENDS MAX477
